US09428452B2
Preparation of N-(2,4-dimethylphenyl)-N-isobutyl-4-((1-(2,2,2-trifluoroethyl)piperidin-4-yl)methoxy)benzenesulfonamide (Example 13)
To a solution of N-(2,4-dimethylphenyl)-4-fluoro-N-isobutylbenzenesulfonamide (25 mg, 0.075 mmol) and (1-(2,2,2-trifluoroethyl)piperidin-4-yl)methanol (14.70 mg, 0.075 mmol) in dimethyl sulfoxide (DMSO) (0.5 mL) stirred in air at 20° C., was added sodium hydride (approximately 2.98 mg, 0.075 mmol, 60% dispersed in oil) in one charge. The reaction mixture was stirred at 20° C. for 16 hours. The reaction was carefully quenched with methanol (0.5 mL) and water (0.5 mL). The solvent was concentrated in vacuo (Biotage V10) to give the crude product in DMSO (0.5 mL). The residue was taken up in additional DMSO (0.5 mL) and methanol (1 mL) then purified by mass directed autoprep (formic acid modifier). The appropriate fractions were evaporated under a stream of nitrogen to give the required product, 11.5 mg. LCMS [LCMS1] Rt 1.51 min, m/z (ES+) 513 (M+H).

reactant | N-(2,4-dimethylphenyl)-4-fluoro-N-isobutylbenzenesulfonamide | 0.075 mmol, 25 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)F)CC(C)C | C18H22FNO2S
reactant | (1-(2,2,2-trifluoroethyl)piperidin-4-yl)methanol | 0.075 mmol, 14.70 mg | FC(CN1CCC(CC1)CO)(F)F | C8H14F3NO
reactant | sodium hydride | 0.075 mmol, approximately 2.98 mg | [H-].[Na+]
solvent | dimethyl sulfoxide | 0.5 mL | CS(=O)C | C2H6OS
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | N-(2,4-dimethylphenyl)-N-isobutyl-4-((1-(2,2,2-trifluoroethyl)piperidin-4-yl)methoxy)benzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)OCC1CCN(CC1)CC(F)(F)F)CC(C)C | C26H35F3N2O3S
